US08466167B2
To a stirred solution of (5,6-dichloropyridin-3-yl)methanol (commercially available) in CH2Cl2 (0.2 M) at 0° C. was added triethylamine (3 eq.) and chloro(methoxy)methane (2 eq.). After stirring at 0° C. for 3 hours the reaction mixture was concentrated and the crude was purified by chromatography (silica gel, 20-50% EtOAc in hexanes) to afford 2,3-dichloro-5-((methoxymethoxy)methyl)pyridine as a colorless oil.

reactant | (5,6-dichloropyridin-3-yl)methanol | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | triethylamine | 3 eq. | C(C)N(CC)CC | C6H15N
reactant | chloro(methoxy)methane | 2 eq. | ClCOC | C2H5ClO
solvent | CH2Cl2 | 0.2 M | C(Cl)Cl | CH2Cl2
product | 2,3-dichloro-5-((methoxymethoxy)methyl)pyridine | ClC1=NC=C(C=C1Cl)COCOC | C8H9Cl2NO2
